US05578627
To a solution of 0.24 g of 3-[2-amino-3-(4-imidazolyl)propoxy]-5-chloro-1,2-benzoisoxazole dihydrochloride in 5 ml of tetrahydrofuran are added 0.14 g of triethylamine and 0.17 g of di-tert-butyl dicarbonate at room temperature, and they are subjected to reaction at the same temperature for three hours. Water and ethyl acetate are added to the reaction mixture and shaken, and the organic layer is separated. The separated organic layer is washed with a saturated saline solution and dried over anhydrous magnesium sulfate. The solvent is removed by distillation under reduced pressure, and the residue obtained is purified by a column chromatography [eluant:chloroform:methanol=10:1], to obtain 0.15 g of yellow, solid 3-[2-tert-butoxycarbonylamino-3-(4-imidazolyl)propoxy]-5-chloro-1,2-benzoisoxazole.

reactant | 3-[2-amino-3-(4-imidazolyl)propoxy]-5-chloro-1,2-benzoisoxazole dihydrochloride | 0.24 g | Cl.Cl.NC(COC1=NOC2=C1C=C(C=C2)Cl)CC=2N=CNC2
reactant | triethylamine | 0.14 g | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 0.17 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | Water | O | H2O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-[2-tert-butoxycarbonylamino-3-(4-imidazolyl)propoxy]-5-chloro-1,2-benzoisoxazole | C(C)(C)(C)OC(=O)NC(COC1=NOC2=C1C=C(C=C2)Cl)CC=2N=CNC2 | C18H21ClN4O4
